* Schematics Netlist *



L_L1         $N_0001 $N_0002 200uH 
C_C1         0 Vo 200uF 
R_R1         0 Vo 10 
Q_Q1         $N_0002 $N_0003 0 QbreakN 
V_Vg         $N_0001 0 10V
V_Vu         $N_0003 0  AC 1
+PULSE 1 0 10e-6 0.2e-6 0.2e-6 10e-6 20e-6
D_D         $N_0002 Vo Dbreak 
